US04889854
1.26 g of 1-[(10-chloro-4-oxo-3-phenyl-4H-pyrido[2,1-a]phthalazin-1-yl)carbonyl]-3-methoxyazetidine and 0.75 g of sodium cyanoborohydride in 30 ml of methanol are treated dropwise at room temperature under argon with saturated methanolic hydrochloric acid. The reaction is completed after a short time. The mixture is poured into 70 ml of ice-water and the yellowish crystals are removed by filtration. The crystals are washed three times with 2 ml of water each time and dried at 60° in vacuo. After recrystallization of the crude product from ethyl acetate/acetone (1:1), there is obtained 1-[(10-chloro-6,7-dihydro-4-oxo-3-phenyl-4H-pyrido[2,1-a]phthalazin-1-yl)carbonyl]-3-methoxyazetidine as yellowish crystals of m.p. 238°-239°.

reactant | 1-[(10-chloro-4-oxo-3-phenyl-4H-pyrido[2,1-a]phthalazin-1-yl)carbonyl]-3-methoxyazetidine | 1.26 g | ClC1=CC=C2C=NN3C(C2=C1)=C(C=C(C3=O)C3=CC=CC=C3)C(=O)N3CC(C3)OC | C23H18ClN3O3
reactant | sodium cyanoborohydride | 0.75 g | C(#N)[BH3-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | 30 ml | CO | CH4O
product | 1-[(10-chloro-6,7-dihydro-4-oxo-3-phenyl-4H-pyrido[2,1-a]phthalazin-1-yl)carbonyl]-3-methoxyazetidine | ClC1=CC=C2CNN3C(C2=C1)=C(C=C(C3=O)C3=CC=CC=C3)C(=O)N3CC(C3)OC | C23H20ClN3O3
